US06660756B2
d) 1-Benzyl 3-tert-butyl 2-(2-methoxyethyl)malonate
To a stirred suspension of sodium hydride (14.4 g of a 60% dispersion in mineral oil, 360 mmol) in THF (300 ml) was cooled to 0° C. under nitrogen. To the resultant slurry was added, over a period of 45 minutes, a solution of benzyl-tert-butyl malonate (90.0 g, 360 mmol) in THF (500 ml). The reaction mixture was allowed to warm to room temperature and was then stirred for 1 hour. The reaction mixture was then cooled to 0° C. again, and a solution of 2-bromoethyl methyl ether (50.0 g, 360 mmol) in THF (100 ml) was then added over a period of 0.5 hours. The reaction was then allowed to warm to room temperature and left to stir for 19 hours. The reaction was then brought to reflux for 24 hours before cooling to room temperature. To the reaction mixture was added deionised water (500 ml) and the product was then extracted with ethyl acetate (3×500 ml). The organic phases were combined, dried over magnesium sulfate and were then concentrated by distillation under reduced pressure to give the product as a crude oil (100 g). The product was then purified by column chromatography on silica gel using 10% diethyl ether in heptane then 20% diethyl ether in heptane as the eluent, to give the title compound as an oil (37.1 g, 120 mmol, 33% yield); TLC (diethyl ether/heptane 3:7, visualised with Dragendorff's dip) Rf 0.25; 1H NMR (300 MHz, CDCl3) δ: 1.4 (s, 9H), 2.13 (dt, 2H), 3.30 (s, 3H), 3.43 (t, 2H), 3.51 (t, 1H), 5.20 (d, 2H), 7.29-7.40 (m, 5H).

reactant | sodium hydride | [H-].[Na+]
reactant | benzyl-tert-butyl malonate | 360 mmol, 90.0 g | C(CC(=O)[O-])(=O)OC(CCC1=CC=CC=C1)(C)C
reactant | 2-bromoethyl methyl ether | 360 mmol, 50.0 g | COCCBr | C3H7BrO
reactant | water | 500 ml | O | H2O
reactant | heptane | CCCCCCC | C7H16
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyl 3-tert-butyl 2-(2-methoxyethyl)malonate | 120 mmol, 37.1 g, 33% yield | COCCC(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H24O5
